US04255182
Preparation of N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)methylamine
2-Bromomethyl-4,5-dimethyl-1,3-dioxolane (100 grams) and 40% aqueous methylamine (300 ml) were charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and were stirred at room temperature for a period of about 14 hours. The reaction mixture was then extracted with diethyl ether. The extract was dried and the ether stripped off using a rotary evaporator to yield the desired product N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)methylamine as the residue.

reactant | 2-Bromomethyl-4,5-dimethyl-1,3-dioxolane | 100 grams | BrCC1OC(C(O1)C)C | C6H11BrO2
reactant | methylamine | 300 ml | CN | CH5N
product | N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)methylamine | CC1OC(OC1C)CNC | C7H15NO2
